US07163936B2
To a solution of tert-butyl (4S)-4-{[(benzyloxy)carbonyl]amino}-5-hydroxypentanoate (4.0 g, 12.4 mmol) in acetonitrile (80 ml) were added silveroxide (14.3 g, 61.7 mmol) and methyliodide (7.7 ml, 124 mmol), and the mixture was stirred for 19 hours. After removal of the insoluble materials, the solvent was removed in vacuo and the residue was purified with silica gel chromatography to give tert-butyl (4S)-4-{[(benzyloxy)carbonyl]amino}-5-methoxypentanoate (2.98 g, 71%).

reactant | tert-butyl (4S)-4-{[(benzyloxy)carbonyl]amino}-5-hydroxypentanoate | 12.4 mmol, 4.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)CO | C17H25NO5
reactant | methyliodide | 124 mmol, 7.7 ml | CI | CH3I
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
catalyst | silveroxide | 61.7 mmol, 14.3 g | [Ag]=O
product | tert-butyl (4S)-4-{[(benzyloxy)carbonyl]amino}-5-methoxypentanoate | 2.98 g, 71% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)COC | C18H27NO5
